US07288553B2
2-(5-Nitro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol
This compound was prepared using the standard de-protection procedure, as described in General Procedure Example B, starting from 2-(1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol (0.65 g, 1.31 mmol) and using 4N sodium hydroxide as base (1 mL, 4.0 mmol) to yield the title compound as a solid.

reactant | 2-(1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | 1.31 mmol, 0.65 g | CS(=O)(=O)N1C(=CC2=CC(=C(C=C12)C(F)(F)F)[N+](=O)[O-])C(CSCC(F)(F)F)(CC)O | C16H16F6N2O5S2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
product | 2-(5-Nitro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1C(F)(F)F)C(CSCC(F)(F)F)(CC)O | C15H14F6N2O3S
